US04820838
The invention relates to a process for the preparation of a new crystalline monohydrate of 1-(3', 4'-diethoxy-benzyl-6, 7-diethoxy-3,4-dihydro-isoquinolinium-theophylline-7-acetate and if desired of pure 1-(3', 4'-diethoxy-benzyl)-6,7-diethoxy-3, 4-dihydro-isoquinolinium-theophylline-7-acetate free of contaminating oxidation products which comprises reacting 1-(3',4'-diethoxy-benzyl)-6,7-diethoxy-3,4-dihydro-isoquinolinium with theophylline-7-acetate acid in the presence of water and one or more organic solvent(s) and if desired dehydrating the 1-(3',4'-diethoxy-benzyl) 6,7-diethoxy-3,4-dihydro-isoquinolinium-theophylline-7-acetate-monohydrate thus obtained.

reactant | 1-(3', 4'-diethoxy-benzyl)-6,7-diethoxy-3, 4-dihydro-isoquinolinium theophylline-7-acetate | C(C)OC=1C=C(CC2=[NH+]CCC3=CC(=C(C=C23)OCC)OCC)C=CC1OCC.N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)[O-]
reactant | 1-(3',4'-diethoxy-benzyl)-6,7-diethoxy-3,4-dihydro-isoquinolinium | C(C)OC=1C=C(CC2=[NH+]CCC3=CC(=C(C=C23)OCC)OCC)C=CC1OCC
reactant | theophylline-7-acetate | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)[O-]
solvent | water | O | H2O
product | 1-(3',4'-diethoxy-benzyl) 6,7-diethoxy-3,4-dihydro-isoquinolinium-theophylline-7-acetate-monohydrate | O.N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)[O-].C(C)OC=1C=C(CC2=[NH+]CCC3=CC(=C(C=C23)OCC)OCC)C=CC1OCC | InChI=1S/C24H31NO4.C9H10N4O4.H2O/c1-5-26-21-10-9-17(14-22(21)27-6-2)13-20-19-16-24(29-8-4)23(28-7-3)15-18(19)11-12-25-20;1-11-7-6(8(16)12(2)9(11)17)13(4-10-7)3-5(14)15;/h9-10,14-16H,5-8,11-13H2,1-4H3;4H,3H2,1-2H3,(H,14,15);1H2
